US08217064B2
To a stirred solution of ethyl 2-(3-bromo-5-chloro-4-hydroxyphenyl)acetate (2 g, 6.8 mmol), potassium carbonate (2.35 g, 17.0 mmol) in dry DMF (20 mL), was slowly added trifluoro ethyl iodide (8.58 g, 4.0 mL, 40.8 mmol) at room temperature, the reaction mixture was slowly heated to 100° C. and heating was continued for 4 h. Upon which the reaction mixture was poured onto water and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water, dried over Na2SO4 and evaporated under reduced pressure. Purification by column chromatography over silica gel (hexane/EtOAc) to gave compound ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-acetate (0.750 g, 30% yield). 1H NMR (CDCl3, 400 MHz): 7.43 (s, 1H); 7.34 (s, 1H); 4.4 (q, 2H), 4.13 (q, 2H); 3.55 (t, 1H); 1.93 (m, 1H), 1.58 (m, 1H); 1.45 (m, 1H); 1.24 (t, 3H), 0.92 (d, 6H);

reactant | ethyl 2-(3-bromo-5-chloro-4-hydroxyphenyl)acetate | 6.8 mmol, 2 g | BrC=1C=C(C=C(C1O)Cl)CC(=O)OCC | C10H10BrClO3
reactant | potassium carbonate | 17.0 mmol, 2.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoro ethyl iodide | 40.8 mmol, 4.0 mL, 8.58 g | FC(CI)(F)F | C2H2F3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-bromo-5-chloro-4-(2,2,2-trifluoroethoxy)phenyl)-acetate | 0.750 g, 30% yield | BrC=1C=C(C=C(C1OCC(F)(F)F)Cl)CC(=O)OCC | C12H11BrClF3O3
